US04970172
The DEA-silica or DEAE-silica gel prepared according to the above procedure is then treated with sodium nitroprusside alone or sodium nitroprusside mixed with magnesium or calcium sulfate to form nitroprusside DEA or DEAE-silica. According to one procedure, one hundred gram aliquots of DEAE silica gel were then taken in dark bottles and each mixed with one liter of aqueous solution of sodium nitroprusside at concentrations of 2 g/liter, 4 g/liter, 5 g liter, 6 g liter, 8 g/liter and 10 g/liter. The mixtures were rotated in the dark for 5 minutes, filtered on coarse-porosity sintered glass funnels and dried thoroughly under vacuum. Alternatively, the DEA or DEAE-silica materials were additionally treated with nitroprusside at concentrations of 2 g/liter, 4 g/liter, 5 g/liter, 6 g/liter, 8 g/liter and 10 g/liter mixed with equimolar amounts of magnesium sulfate. The mixtures were then rotated in the dark for 5 minutes, filtered on coarse-porosity sintered glass funnels and dried thoroughly under vacuum.

reactant | sodium nitroprusside | [C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.[N-]=O.O.O.[Na+].[Na+].[Fe+4]
reactant | magnesium | [Mg] | Mg
reactant | calcium sulfate | S(=O)(=O)([O-])[O-].[Ca+2]
product | nitroprusside | [C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.[N-]=O.[Fe+4] | InChI=1S/5CN.Fe.NO/c5*1-2;;1-2/q5*-1;+4;-1
